US05463129
A 100 mL, 3-necked, round-bottom flask is charged with 30 mL of N-methylpyrrolidinone, 2.6 g (0.02 mole) of 1,3-dimethoxy-4,6-dinitrobenzene. The resulting solution is heated to 130° C. for two to three hours. The reaction mixture is then cooled and poured into an excess of dilute hydrochloric acid. The resulting solid is isolated by filtration to yield 1.9 g (95% yield) of 4,6-dinitroresorcinol.

reactant | 1,3-dimethoxy-4,6-dinitrobenzene | 0.02 mole, 2.6 g | COC1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])OC | C8H8N2O6
reactant | hydrochloric acid | Cl | ClH
solvent | N-methylpyrrolidinone | 30 mL | CN1C(CCC1)=O | C5H9NO
product | 4,6-dinitroresorcinol | 1.9 g, 95% yield | [N+](=O)([O-])C1=C(C=C(O)C(=C1)[N+](=O)[O-])O | C6H4N2O6
